US06693123B2
To a 0° C. solution in dichloromethane (1 mL) of 3-pyridylthio-2-phenylbenzoic acid tert-butyl ester (245 mg, 0.67 mmol), prepared as in Example 241 A, and triethylsilane (390 mg, 3.4 mmol) was added trifluoroacetic acid (1.53 g, 13.4 mmol) and the reaction mixture was warmed to ambient temperature and stirred for 18 hours. The reaction mixture was concentrated and azeotroped with toluene (3×) to give 3-pyridylthio-2-phenylbenzoic acid (209 mg) as a translucent film which was used without further purification.

reactant | 3-pyridylthio-2-phenylbenzoic acid tert-butyl ester | 0.67 mmol, 245 mg | C(C)(C)(C)OC(C1=C(C(=CC=C1)SC=1C=NC=CC1)C1=CC=CC=C1)=O | C22H21NO2S
reactant | triethylsilane | 3.4 mmol, 390 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 13.4 mmol, 1.53 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-pyridylthio-2-phenylbenzoic acid | 209 mg | N1=CC(=CC=C1)SC=1C(=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C18H13NO2S
